US08304546B2
An acetone solution (60 ml) of 3-amino-2-naphthol (5.0 g, 31.4 mmol) was added to an aqueous solution (20 ml) of sodium carbonate (4.77 g, 34.5 mmol). The mixture was cooled in an ice-water bath, and then acetyl chloride (2.27 ml, 32.0 mmol) was added to the mixture dropwise over 5 minutes. The resulting mixture was stirred at 0° C. for 4 hours and then allowed to stand at room temperature overnight. 2N Hydrochloric acid was added to the reaction mixture to adjust its pH to 3. The generated insoluble matter was separated, washed with water, and then dried, giving a white powder of N-(3-hydroxynaphthalen-2-yl)acetamide (4.9 g, yield: 78%).

reactant | 3-amino-2-naphthol | 31.4 mmol, 5.0 g | NC=1C(=CC2=CC=CC=C2C1)O | C10H9NO
reactant | sodium carbonate | 34.5 mmol, 20 ml, 4.77 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | acetyl chloride | 32.0 mmol, 2.27 ml | C(C)(=O)Cl | C2H3ClO
reactant | Hydrochloric acid | 2N | Cl | ClH
solvent | acetone | 60 ml | CC(=O)C | C3H6O
product | N-(3-hydroxynaphthalen-2-yl)acetamide | 4.9 g, yield: 78% | OC=1C(=CC2=CC=CC=C2C1)NC(C)=O | C12H11NO2
